US06096758
10. 2,3-Dimethyl-8-{2-[(2-methylsulfinylethoxy)carbonylamino]-6-methylbenzylamino}imidazo-[1,2-a]pyridine hemifumarate
A solution of 2,3-dimethyl-8-{2-[(2-methylsulfanylethoxy)carbonylamino]-6-methylbenzylamino}imidazo-[1,2-a]pyridine (1.0 g) in anhydrous dichloromethane (25 ml) is cooled to 0° C. and treated in portions with m-chloroperoxybenzoic acid (800 mg) and then stirred at 0° C. for a further 15 min. Aqueous sodium bicarbonate solution (25 ml) is then added, the mixture is stirred for a further 10 min, the organic phase is separated off and the aqueous phase is extracted with dichloromethane (3×20 ml). The combined organic phases are washed with water (50 ml), dried over magnesium sulfate and concentrated. To separate off the sulfone, the residue is chromatographed on silica gel (eluent: ethyl acetate/methanol/ammonia=19:1:0.1). The fractions of Rf =0.15 are collected and concentrated. The residue is taken up in a hot solution of fumaric acid (150 mg) in acetone (20 ml) and then cooled to 4° C. After filtration and drying in a high vacuum, 0.54 g (46%) of the title compound is isolated as a pale beige crystallizate. M.p. 137-138° C.

reactant | 2,3-dimethyl-8-{2-[(2-methylsulfanylethoxy)carbonylamino]-6-methylbenzylamino}imidazo-[1,2-a]pyridine | 1.0 g | CC=1N=C2N(C=CC=C2NCC2=C(C=CC=C2C)NC(=O)OCCSC)C1C | C21H26N4O2S
reactant | m-chloroperoxybenzoic acid | 800 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium bicarbonate | 25 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 2,3-Dimethyl-8-{2-[(2-methylsulfinylethoxy)carbonylamino]-6-methylbenzylamino}imidazo-[1,2-a]pyridine hemifumarate | 0.54 g, 46% | C(\C=C\C(=O)O)(=O)O.CC=1N=C2N(C=CC=C2NCC2=C(C=CC=C2C)NC(=O)OCCS(=O)C)C1C.CC=1N=C2N(C=CC=C2NCC2=C(C=CC=C2C)NC(=O)OCCS(=O)C)C1C | InChI=1S/2C21H26N4O3S.C4H4O4/c2*1-14-7-5-8-18(24-21(26)28-11-12-29(4)27)17(14)13-22-19-9-6-10-25-16(3)15(2)23-20(19)25;5-3(6)1-2-4(7)8/h2*5-10,22H,11-13H2,1-4H3,(H,24,26);1-2H,(H,5,6)(H,7,8)/b;;2-1+
